US07635684B2
3-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-{3-[(S)-1-(carbamoyl)ethylamino]propoxy}phenyl)methyl]-5-isopropyl-1H-pyrazole
The title compound was prepared in a similar manner to that described in Example 39 using 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-hydroxypropoxy)phenyl]-methyl}-5-isopropyl-1H-pyrazole and (S)-2-(2-nitrobenzenesulfonylamino)propionamide instead of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-hydroxypropoxy)-2-methylphenyl]methyl}-5-isopropyl-1H-pyrazole and 2-(2-nitrobenzenesulfonylamino)acetoamide, respectively.

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-hydroxypropoxy)phenyl]-methyl}-5-isopropyl-1H-pyrazole | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)OCCCO)C(C)C | C30H40N2O12
reactant | (S)-2-(2-nitrobenzenesulfonylamino)propionamide | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N[C@H](C(=O)N)C | C9H11N3O5S
reactant | 2-(2-nitrobenzenesulfonylamino)acetoamide | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NCC(=O)N | C8H9N3O5S
product | 3-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-{3-[(S)-1-(carbamoyl)ethylamino]propoxy}phenyl)methyl]-5-isopropyl-1H-pyrazole | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)OCCCN[C@@H](C)C(N)=O)C(C)C | C33H46N4O12
